### PR TITLE
Simpler simple functions

### PR DESCRIPTION
**Pull request by CohenCyril**
~RFC @affeldt-aist~

See PR #371.

### CODE REVIEW

File: theories/lebesgue_integral.v [hunk 1]
```diff
@@ -1482,73 +1590,121 @@ Proof. by rewrite /nnsfun_bigmax; elim/big_ind2 : _ => [|x g y h <- <-|]. Qed.
...
-move=> Dfin; apply/fsetP => z; rewrite in_fset_set; last exact: finite_image.
-apply/idP/idP => [|/imfsetP[r /=]].
-  rewrite inE /= => -[x Dx <-{z}]; apply/imfsetP => /=; exists x => //.
-  by rewrite in_fset_set ?inE/=.
-by rewrite in_fset_set// inE => Dr ->; rewrite inE; exists r.
-Qed.
+Lemma ge0_fsume_distrr (R : realDomainType) (x : \bar R)
+    (F : R -> \bar R) : (forall i : R, 0 <= F i)%E ->
+  finite_set ([eta F] @^-1` [set~ 0%E]) ->
+  x != 0%E ->
```
Comment (CohenCyril) [inline theories/lebesgue_integral.v:1596]: These 3 hypotheses seem unnecessary (although the case analysis should probably occur inside the proof)
